US04132850
5,5'-[(6-Chloro-s-triazine-2,4-diyl)diimino]-diisophthalic acid tetrasodium salt
To a stirred solution of 18.1 g of 5-aminoisophthalic acid in 200 ml of water plus 38.2 ml of 5N sodium hydroxide is added 9.2 g of sodium bicarbonate. The solution is cooled to 10° C. in an ice bath, then a solution of 9.2 g of cyanuric chloride in 50 ml of acetone is added. The mixture is stirred at room temperature for 10 minutes, then at 40°-45° C. for 31/2 hours. The solution is allowed to stand at room temperature for 16 hours and is filtered. The filtrate is concentrated to 150 ml and diluted with 300 ml of absolute ethanol to give a colorless precipitate. The product is collected by filtration, washed with 75% aqueous ethanol, ethanol and ether and dried by conventional means to give 25.9 g of crude product. An 8.9 g portion of this material is dissolved in 50 ml of water, allowed to stand at room temperature for 2 hours, then filtered through diatomaceous earth. The filter is washed with 10 ml of water. The filtrate is diluted with 100 ml of absolute ethanol to give a thick precipitate. The mixture is filtered and the product is washed with (1:2) aqueous ethanol, ethanol and ether. The material is dried by conventional means to yield 7.64 g of a colorless powder as the product of the example.

reactant | 5-aminoisophthalic acid | 18.1 g | NC=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H7NO4
reactant | sodium bicarbonate | 9.2 g | C([O-])(O)=O.[Na+]
reactant | cyanuric chloride | 9.2 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | water | 200 ml | O | H2O
solvent | sodium hydroxide | 5N, 38.2 ml | [OH-].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 50 ml | O | H2O
product | 5,5'-[(6-Chloro-s-triazine-2,4-diyl)diimino]-diisophthalic acid tetrasodium salt | 7.64 g | [Na+].[Na+].[Na+].[Na+].ClC1=NC(=NC(=N1)NC=1C=C(C=C(C(=O)[O-])C1)C(=O)[O-])NC=1C=C(C=C(C(=O)[O-])C1)C(=O)[O-] | InChI=1S/C19H12ClN5O8.4Na/c20-17-23-18(21-11-3-7(13(26)27)1-8(4-11)14(28)29)25-19(24-17)22-12-5-9(15(30)31)2-10(6-12)16(32)33;;;;/h1-6H,(H,26,27)(H,28,29)(H,30,31)(H,32,33)(H2,21,22,23,24,25);;;;/q;4*+1/p-4
